US07151097B2
4-Acetoxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid I-6d (581.0 g, 1.48 mol) was dissolved in 10 liters of methylene chloride to give a pale yellow, slightly opaque solution. The solution was filtered through Celite® to give a clear green colored solution. 2-Chloro-4,6-dimethoxy-1,3,5-triazine (296.8 g, 1.64 mol) was added in one portion as a solid at room temperature to give an opaque suspension (addition is slightly endothermic). 4-Methylmorpholine (182.9 g, 1.80 mol) was added over 15 minutes while keeping the temperature between 18–22° C. (reaction returned to being yellow in color). Reaction stirred for 3 hours at room temperature, then 2-(2,2-difluoropropylamino)-ethanol (228.3 g, 1.64 mol) was added neat over 10 minutes while keeping the temperature between 20–25° C. The reaction was stirred for 15 hours, then washed twice with 6 liter portions of 10% citric acid and once with 5 liters of brine. The crude product solution was concentrated in vacuo to a thick orange oil, then reconstituted in 4 liters of isopropyl ether. After removing 1 liter of distillates precipitate began to form. To the crude product suspension was added 1.5 liters of isopropyl ether and then the mixture was stirred at room temperature for 1 hour. The precipitated solids were collected by filtration and the resulting filtercake was rinsed with 2 liters of room temperature isopropyl ether, followed by air-drying for 16 hours. Acetic acid 1-(2-chlorophenyl)-5-(4-chlorophenyl)-3-[(2,2-difluoro-propyl)-(2-hydroxyethyl)-carbamoyl]-1H-pyrazol-4-yl ester I-6e (603.0 g, 78%) was isolated as a granular off-white solid.

reactant | 4-Acetoxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid | 1.48 mol, 581.0 g | C(C)(=O)OC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(=O)O | C18H12Cl2N2O4
reactant | 2-Chloro-4,6-dimethoxy-1,3,5-triazine | 1.64 mol, 296.8 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 4-Methylmorpholine | 1.80 mol, 182.9 g | CN1CCOCC1 | C5H11NO
reactant | 2-(2,2-difluoropropylamino)-ethanol | 1.64 mol, 228.3 g | FC(CNCCO)(C)F | C5H11F2NO
reactant | isopropyl ether | 1.5 liters | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 10 liters | C(Cl)Cl | CH2Cl2
product | Acetic acid 1-(2-chlorophenyl)-5-(4-chlorophenyl)-3-[(2,2-difluoro-propyl)-(2-hydroxyethyl)-carbamoyl]-1H-pyrazol-4-yl ester | 603.0 g, 78% | ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)OC(C)=O)C(N(CCO)CC(C)(F)F)=O | C23H21Cl2F2N3O4
